US05482942
4-(2-Amino-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile.
Ammonia gas was bubbled into a solution of 361 mg (1.12 mmol) of 4-(2-isopropoxy-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile in acetonitrile (11 ml) for 30 min. The reaction mixture was stirred at ambient temperature for 16 h. The reaction mixture was quenched with H2O (50 mL) and was extracted into 20% THF-CH2Cl2. The combined organic extracts were dried over anhydrous Na2SO4 and then concentrated and recrystallized from acetone-petroleum ether to give 110 mg of the title compound (35% yield), mp>250° C., as an off white solid: 1H-NMR (DMSO-d6 ; 400 MHz) δ9.18 (bs, 1H), 8.68 (bs, 1H), 7.79 (d, 1H), 7.67 (dd, 1H), 7.01 (d, 1H), 6.29 (s, 1H), and 1.47 ppm (s, 6H); IR (KBr) 3300, 3100, 1780, 1730, 1720, 1665, and 1610 cm-1 ; mass spectrum (PBEI), m/e 281 (M+H), 280 (M+), 252, and 209.

reactant | Ammonia | N | H3N
reactant | 4-(2-isopropoxy-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile | 1.12 mmol, 361 mg | C(C)(C)OC1=C(C(C1=O)=O)C1=CC(OC2=CC=C(C=C12)C#N)(C)C | C19H17NO4
solvent | acetonitrile | 11 ml | C(C)#N | C2H3N
product | 4-(2-Amino-3,4-dioxo-cyclobut-1-enyl)-2,2-dimethyl-2H-chromene-6-carbonitrile | 110 mg, 35% yield | NC1=C(C(C1=O)=O)C1=CC(OC2=CC=C(C=C12)C#N)(C)C | C16H12N2O3
